US04416683
A 8.5 Kg portion of 2,6-dimethoxybenzoic acid was dissolved in 60 liters of toluene and the solution was stirred at ambient temperature while 6.8 liters of thionyl chloride was added dropwise over forty-five minutes. Following the addition, the reaction mixture next was cooled to room temperature and the solvent was removed by evaporation under reduced pressure, washed with 25 liters of Pet. ether cooled and filtered to provide a crude solid product. The product was stirred for one hour with 25 liters of fresh Pet. ether, and then cooled to 10° C. and filtered to provide 8.94 Kg of 2,6-dimethoxybenzoyl chloride.

reactant | 2,6-dimethoxybenzoic acid | COC1=C(C(=O)O)C(=CC=C1)OC | C9H10O4
reactant | thionyl chloride | 6.8 liters | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 60 liters | C1(=CC=CC=C1)C | C7H8
product | 2,6-dimethoxybenzoyl chloride | 8.94 Kg | COC1=C(C(=O)Cl)C(=CC=C1)OC | C9H9ClO3
